US05502044
4-chloro-6α-trifluoromethyl-androsta-1,4-diene-3,17-dione (VI)
To a solution of 6α-trifluoromethyl-androsta-1,4-diene-3,17-dione (3.524 g, 10 mmol) in pyridine (35 ml) was added dropwise sulfurylchloride (2.699 g, 20 mmol) at about +5° C. in 20 min. The reaction mixture was stirred further 1 h at +5° C. and then poured onto water. The precipitate was filtered off and the residue purified by trituration in ethylacetate and dichloromethane. Thus almost pure title compound was obtained in about 60% yield (2.32 g).

reactant | 6α-trifluoromethyl-androsta-1,4-diene-3,17-dione | 10 mmol, 3.524 g | FC([C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O)(F)F | C20H23F3O2
reactant | sulfurylchloride | 20 mmol, 2.699 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-6α-trifluoromethyl-androsta-1,4-diene-3,17-dione | about 60% yield | ClC1=C2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O)C(F)(F)F | C20H22ClF3O2
